US06174898B1
1-(2-((2-(2-Fluorophenyl)-2-(2-methylphenyl)ethenyl)oxy)ethyl)-1,2,5,6-tetrahydro-3-pyridinecarboxylic acid hydrochloride
1-(2-((2-(2-Fluorophenyl)-2-(2-methylphenyl)ethenyl)oxy)ethyl)-1,2,5,6-tetrahydro-3-pyridinecarboxylic acid methyl ester hydrochloride (2.18 g, 0.0049 mol, prepared similarly to the method described in Example 70) was dissolved in ethanol (24 ml) and 12 N sodium hydroxide solution (1.83 ml) was introduced at 5° C. The solution was stirred at room temperature for 2.5 h and stored at −10° C. for 18 h. The reaction mixture was evaporated to a residue after pH had been adjusted to 6.5 with 4 N hydrochloric acid solution. Water (20 ml) and ethyl acetate (50 ml) were added, the aqueous layer was separated and extracted again with ethyl acetate (25 ml). The combined ethyl acetate extracts was washed with saturated brine (40 ml), dried (MgSO4) and evaporated to a residue, which was co-evaporated with dichloromethane (3×40 ml). The residue (1.9 g) was dissolved in toluene (15 ml) and methanol (0.2 ml) was introduced followed by chlorotrimethylsilane (0.62 ml). The mixture was stirred for 18 h at room temperature and cooled to 0° C. for 2 h. The title compound (1.9 g, 91%) was obtained as white crystals.

reactant | 1-(2-((2-(2-Fluorophenyl)-2-(2-methylphenyl)ethenyl)oxy)ethyl)-1,2,5,6-tetrahydro-3-pyridinecarboxylic acid methyl ester hydrochloride | Cl.COC(=O)C=1CN(CCC1)CCOC=C(C1=C(C=CC=C1)C)C1=C(C=CC=C1)F
reactant | sodium hydroxide | 12 N, 1.83 ml | [OH-].[Na+]
solvent | ethanol | 24 ml | C(C)O | C2H6O
product | 1-(2-((2-(2-Fluorophenyl)-2-(2-methylphenyl)ethenyl)oxy)ethyl)-1,2,5,6-tetrahydro-3-pyridinecarboxylic acid hydrochloride | 1.9 g, 91% | Cl.FC1=C(C=CC=C1)C(=COCCN1CC(=CCC1)C(=O)O)C1=C(C=CC=C1)C | InChI=1S/C23H24FNO3.ClH/c1-17-7-2-3-9-19(17)21(20-10-4-5-11-22(20)24)16-28-14-13-25-12-6-8-18(15-25)23(26)27;/h2-5,7-11,16H,6,12-15H2,1H3,(H,26,27);1H
